US08106043B2
(S)-tert-Butyl-1-(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)pyrrolidine-2-carboxylate:
A round bottom flask containing (S)-tert-butyl 1-(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)pyrrolidine-2-carboxylate (525 mg, 1.334 mmol) was purged with argon. This flask was charged with palladium on activated carbon (10% wt; 142 mg, 0.133 mmol) followed by EtOH (25 mL). The resulting suspension was evacuated using a pump, and hydrogen was let into the system via a balloon. The mixture was stirred under a balloon filled with hydrogen for 2 hours. At this time, the hydrogen balloon was removed, and methyl thiophene-2-carbimidothioate hydroiodide (761 mg, 2.67 mmol) was added to the mixture. The suspension was stirred at room temperature for 17 hours (overnight). At this time, the mixture was filtered through a pad of Celite, and the pad was rinsed with MeOH (20 mL). The filtrate was concentrated, and the residue partitioned between saturated sodium bicarbonate solution (50 mL) and CH2Cl2 (100 mL). The mixture was transferred to a separatory funnel and extracted. After extraction, the organic layer was separated, dried (Na2SO4), filtered, and concentrated to give a dark residue. This residue was subjected to flash chromatography on silica gel using 2:98 MeOH:CH2Cl2 followed by 3.5:96.5 (2M NH3 in MeOH):CH2Cl2 to give a yellow-green residue (398 mg, 63.1%). 1H-NMR (CDCl3) δ 7.39 (dd, J=1.2, 5.1 Hz, 1H), 7.37 (dd, J=1.2, 3.9 Hz, 1H), 7.05 (dd, J=3.6, 4.8 Hz, 1H), 6.73 (brd, J=5.1 Hz, 1H), 6.71 (brs, 1H), 6.65 (dd, J=2.1, 8.7 Hz, 1H), 4.86 (brs, 2H), 3.63-3.60 (m, 2H), 3.44 (t, J=7.5 Hz, 2H), 3.25-3.19 (m, 1H), 3.11 (brdd, J=5.4, 8.4 Hz, 1H), 3.04-2.94 (m, 3H), 2.71-2.59 (m, 1H), 2.45 (brdd, J=7.8, 16.2 Hz, 1H), 2.13-1.99 (m, 1H), 1.97-1.74 (m, 3H), 1.45 (s, 9H); ESI-MS (m/z, %): 473 (MH+, 90), 417 (85), 276 (100); HPLC Purity: 99.6% a/a.

reactant | (S)-tert-butyl 1-(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)pyrrolidine-2-carboxylate | 1.334 mmol, 525 mg | [N+](=O)([O-])C=1C=CC2=C(SCCN2CCN2[C@@H](CCC2)C(=O)OC(C)(C)C)C1 | C19H27N3O4S
reactant | EtOH | 25 mL | CCO | C2H6O
reactant | methyl thiophene-2-carbimidothioate hydroiodide | 2.67 mmol, 761 mg | I.S1C(=CC=C1)C(=N)SC
reactant | NH3 | 2M | N | H3N
catalyst | palladium on activated carbon | 0.133 mmol, 142 mg | [Pd] | Pd
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-tert-Butyl-1-(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)pyrrolidine-2-carboxylate | 398 mg, 63.1% | C(C)(C)(C)OC(=O)[C@H]1N(CCC1)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C24H32N4O2S2
